US07846959B2
To a solution of 2-methyl-2-thiopseudourea sulfate (5.56 g, 20.0 mmol) in water (50 mL) sodium bicarbonate (6.73 g, 80.0 mmol) was added and the reaction mixture was cooled to 0° C. A solution of 3-chloropropyl chloroformate (2.41 mL, 20.0 mmol) in 1,4-dioxane (20 mL) was added dropwise and it was stirred for 15 hour at room temperature. The reaction mixture was diluted with ethyl acetate (250 mL) and the organic layer was separated. It was washed with water and brine, dried over anhydrous sodium sulfate and the solvent was evaporated. The resulting crude product was purified by silica gel flash chromatography (hexane:ethyl acetate 7:3 to 1:1 eluent) to give 3-chloropropyl [imino(methylthio)methyl]carbamate (2.70 g, 64% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6): 8.58 (br.s, 1H), 4.06 (t, 2H), 3.67 (t, 1H), 2.32 (s, 3H), 2.02 m, 2H); MS (EI) for C6H11ClN2O2S: 211 (MH+).

reactant | 2-methyl-2-thiopseudourea sulfate | 20.0 mmol, 5.56 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | water | 80.0 mmol, 50 mL, 6.73 g | O | H2O
reactant | 3-chloropropyl chloroformate | 20.0 mmol, 2.41 mL | ClC(=O)OCCCCl | C4H6Cl2O2
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 3-chloropropyl [imino(methylthio)methyl]carbamate | 2.70 g, 64% yield | N=C(SC)NC(OCCCCl)=O | C6H11ClN2O2S
